US07858632B2
A mixture of 5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine (0.37 g, 0.925 mmol) and CuCN (0.12 g, 1.39 mmol) in DMF (5 ml) was heated at 120° C. for 3 hours. Water (100 ml) was added, and the precipitate was collected. The residue was triturated with methanolic dichloromethane (10% CH3OH in CH2Cl2 with 0.1% NH4OH) to release the product from its copper complex and filtered. The filtrate was concentrated and purified via flash chromatography (3%CH3OH in CH2Cl2 with 0.1% NH4OH) to give 5-(2,4-diamino-pyrimidin-5-yloxy)-4-isopropyl-2-methoxy-benzonitrile as white solid (0.12 g, 44%): M+H 300.

reactant | 5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine | 0.925 mmol, 0.37 g | IC=1C(=CC(=C(OC=2C(=NC(=NC2)N)N)C1)C(C)C)OC | C14H17IN4O2
reactant | CuCN | 1.39 mmol, 0.12 g | C(#N)[Cu]
reactant | Water | 100 ml | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 5-(2,4-diamino-pyrimidin-5-yloxy)-4-isopropyl-2-methoxy-benzonitrile | 0.12 g, 44% | NC1=NC=C(C(=N1)N)OC=1C(=CC(=C(C#N)C1)OC)C(C)C | C15H17N5O2
